Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Motrin / Zantac / Penicillins
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, vomiting 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
This is a ___ ___ with multiple previous abdominal 
surgeries presenting with one day of abdominal pain and 
vomiting. She woke up yesterday morning with diffuse, throbbing 
abdominal pain, then had 5+ episodes of non-bloody, yellow 
emesis. Her last bowel movement was yesterday at around 5pm, and
was normal in quality and caliber. She has not passed gas for 
more than 24 hours. She feels that her stomach is more distended 
than usual. Denies fever within the last week or diarrhea. No 
recent sick contacts or travel. She explains that a few weeks 
ago she had a fever associated with a respiratory infection, 
which is improving but she is still experiencing cough, 
congestion.
 
Past Medical History:
Past Medical History:
- IDDM
- HTN
- HLD
- asthma
- migraines
- chronic back pain
- depression & anxiety, recent ED evaluation on ___ for SI

Past Surgical History:
___: L salpingo-oophorectomy complicated by sigmoid
perforation
___: Sigmoid  resection,  creation  ___ pouch,
takedown of splenic flexure and sigmoid colostomy.
___: I&D, debridement of abdominal abscess
___: Left colectomy/colostomy closure, takedown splenic
flexure, diverting ileostomy
___: Ileostomy take-down
___: Laparotomy, excision of scar and extensive
adhesiolysis.
___: Ventral hernia repair w/ vicryl mesh
___: Incisional hernia repair w/ mesh
___: Medial L knee meniscectomy
___: R knee meniscectomy
___: R total knee replacement

 
Social History:
___
Family History:
Family history is notable for cardiac disease of her sisters. 

 
Physical Exam:
Admission Physical Exam:

Vitals: T:97.4 BP:130/74 HR:110 RR:18 O2:96% on 2.5L NS
GEN: A&Ox3
HEENT: No scleral icterus, dry membranes moist
CV: Tachycardic, regular rhythm, no M/G/R
PULM: Rhonchi throughout
ABD: Obese, multiple prior surgical scars, no umbilicus,
moderately distended, tender in RLQ and LLQ without rebound or
guarding, no palpable masses/hernia
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: T: 98.4, BP: 112/62, HR: 82, RR: 20, O2: 98% RA
General: A+Ox3, NAD
CV: RRR
PULM: rhonchi with cough, CTA b/l at bases
ABD: soft, non-distended, non-tender
Extremities: no edema, warm, well-perfused b/l
 
Pertinent Results:
___ 09:50PM   GLUCOSE-128* UREA N-15 CREAT-0.9 SODIUM-135 
POTASSIUM-4.0 CHLORIDE-102 TOTAL CO2-25 ANION GAP-12
___ 09:50PM   CALCIUM-8.8 PHOSPHATE-1.7* MAGNESIUM-2.8*
___ 05:19AM   GLUCOSE-255* UREA N-25* CREAT-1.2* SODIUM-138 
POTASSIUM-5.6* CHLORIDE-103 TOTAL CO2-25 ANION GAP-16
___ 05:19AM   CALCIUM-9.6 PHOSPHATE-2.6* MAGNESIUM-1.4*
___ 05:19AM   WBC-7.1 RBC-4.09 HGB-11.4 HCT-36.7 MCV-90 
MCH-27.9 MCHC-31.1* RDW-15.0 RDWSD-49.5*
___ 05:19AM   PLT SMR-LOW PLT COUNT-88*
___ 02:45AM   cTropnT-<0.01
___ 02:45AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 02:45AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-300 KETONE-10 BILIRUBIN-NEG UROBILNGN-2* PH-5.5 LEUK-TR
___ 02:45AM URINE  RBC-0 WBC-3 BACTERIA-FEW YEAST-NONE 
EPI-9 TRANS EPI-<1
___ 02:45AM URINE  HYALINE-4*
___ 02:45AM URINE  MUCOUS-RARE
___ 09:04PM   LACTATE-1.7
___ 08:11PM   GLUCOSE-189* UREA N-24* CREAT-1.2* SODIUM-136 
POTASSIUM-4.9 CHLORIDE-102 TOTAL CO2-22 ANION GAP-17
___ 08:11PM   ALT(SGPT)-52* AST(SGOT)-46* ALK PHOS-133* TOT 
BILI-0.5
___ 08:11PM   LIPASE-32
___ 08:11PM   cTropnT-<0.01
___ 08:11PM   ALBUMIN-4.5
___ 08:11PM   WBC-6.0 RBC-4.34 HGB-12.0 HCT-38.8 MCV-89 
MCH-27.6 MCHC-30.9* RDW-14.7 RDWSD-47.8*
___ 08:11PM   NEUTS-78.9* LYMPHS-12.9* MONOS-5.8 EOS-1.3 
BASOS-0.3 IM ___ AbsNeut-4.76# AbsLymp-0.78* AbsMono-0.35 
AbsEos-0.08 AbsBaso-0.02
___ 08:11PM   PLT COUNT-101*#

Imaging: 

___: EKG:
Sinus tachycardia. Left axis deviation. ST segment depression 
and T wave 
inversion in leads V1-V2 with early precordial R wave transition 
raising the question of active posterior ischemic process, new 
as previously compared  with ___. Followup and clinical 
correlation are suggested. 

___: KUB:
Unremarkable exam.

___: CT ABD/PEL:
1. Likely complete small bowel obstruction with a transition 
point in the 
right lower quadrant adjacent to ventral hernia repair mesh.  No 
bowel wall thickening, pneumatosis, or pneumoperitoneum.  
Evaluation for bowel wall ischemia is limited without the use of 
IV contrast. 
2. Mild splenomegaly. 

___: CXR:
New enteric tube terminates within the stomach.

___: KUB:
No evidence of obstruction or perforation.

___: CXR:
  
Compared to prior chest radiographs since one ___, 
most recently ___. 
  
No free subdiaphragmatic gas.  Mild cardiomegaly.  Lungs clear.  
No pleural abnormality. 

 
Brief Hospital Course:
Ms. ___ is a ___ year-old female with a history of multiple 
previous abdominal surgeries who presented this admission with 
abdominal pain and emesis. CT abd/pelvis revealed a small bowel 
obstruction with a transition point in the right lower quadrant 
adjacent to ventral hernia repair mesh.  She was made NPO, had a 
NGT placed to low continuous wall suction and started on IVF.  
On HD1, the patient passed flatus and had minimal NGT output, so 
her NGT was removed. Her admission EKG showed new ST depressions 
in the anterior, left axis and troponins were sent which were 
negative. CXR was unremarkable. 

On HD2, the patient was advanced to a regular diet which was 
well-tolerated. The patient was ordered oxycodone for a 
migraine. The patient was later febrile to 103,  urinalysis, 
urine culture and blood culture were ordered.  There was no 
leukocytosis.  CXR was unremarkable.  

On HD3, the patient reported facial and ear pain and she was 
diagnosed with acute sinusitis.  Given her allergy to 
penicillin, she was started on Azithromycin.  The patient has a 
history of migraines and PO fioricet prn was started. A social 
work consult was placed to address her current housing and 
coping issues. 

On HD4, the patient was again febrile to 103 at night time and 
she received acetaminophen with good effect.  On HD5, the 
patient reported her facial pain had greatly improved, was 
afebrile and reported no abdominal pain.  She had a bowel 
movement and was passing flatus. 

The patient was alert and oriented throughout hospitalization; 
pain was initially managed with po oxycodone and acetaminophen.  
Oxycodone was discontinued as she reported her pain had 
improved. The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. The patient 
remained stable from a pulmonary standpoint; vital signs were 
routinely monitored. Good pulmonary toilet, early ambulation and 
incentive spirometry were encouraged throughout hospitalization. 
The patient's intake and output were closely monitored.  The 
patient's blood counts were closely watched for signs of 
bleeding, of which there were none. The patient received 
subcutaneous heparin and ___ dyne boots were used during this 
stay and was encouraged to get up and ambulate as early as 
possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge with the aid of 
___ interpreter services.  Teaching and follow-up 
instructions were discussed with understanding verbalized and 
agreement with the discharge plan. A follow-up appointment was 
scheduled with the patient's Primary Care Provider. 

 
Medications on Admission:
Medications: (per psych ED eval note on ___
1.Cetirizine 10 mg PO DAILY 
2.ClonazePAM 1 mg PO QID:PRN anxiety 
3.DiCYCLOmine 10 mg PO BID 
4.Docusate Sodium 100 mg PO BID:PRN constipation 
___ 20 mg PO BID 
___ Propionate NASAL 1 SPRY NU DAILY 
7.Gabapentin 600 mg PO TID 
8.Glargine 20 Units Bedtime
Humalog 10 Units Breakfast
Humalog 14 Units Lunch
Humalog 14 Units Dinner
___ 10 mg PO DAILY 
10.Nortriptyline 10 mg PO QHS 
11.Omeprazole 20 mg PO BID 
12.QUEtiapine Fumarate 200 mg PO QHS 
13.Simvastatin 40 mg PO DAILY 
14.Acetaminophen w/Codeine 1 TAB PO DAILY:PRN head ache 
15.Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN shortness of 
breath 
16.Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
___ (ferrous sulfate) 325 mg (65 mg iron) oral DAILY 
___ HFA (fluticasone) 220 mcg/actuation inhalation BID 
___ 20 mg PO DAILY 
20.GlipiZIDE XL 10 mg PO BID 
21.Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
22.Lisinopril 5 mg PO DAILY 
___ (Glucophage) 1000 mg PO BID 

 
Discharge Medications:
1. Gabapentin 600 mg PO TID 
2. Montelukast 10 mg PO DAILY 
3. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
4. Nortriptyline 10 mg PO QHS 
5. QUEtiapine Fumarate 200 mg PO QHS 
6. Senna 8.6 mg PO BID:PRN constipation  
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*30 Tablet Refills:*0
7. Omeprazole 20 mg PO BID 
8. Furosemide 20 mg PO DAILY 
9. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
10. FLUoxetine 40 mg PO DAILY 
11. Fluticasone Propionate 110mcg 2 PUFF IH BID 
12. ClonazePAM 1 mg PO QID:PRN anxiety  
13. Cetirizine 10 mg PO DAILY 
14. Acetaminophen 500 mg PO Q4H:PRN Fever 
15. Azithromycin 500 mg PO Q24H Duration: 3 Days 
RX *azithromycin 500 mg 1 tablet(s) by mouth Q24H Disp #*1 
Tablet Refills:*0
16. Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN migraine  
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
tablet(s) by mouth every eight (8) hours Disp #*10 Tablet 
Refills:*0
17. Docusate Sodium 100 mg PO BID:PRN constipation  
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
18. Single Point Cane
Dx: Small bowel obstruction 
Px: Good
Duration: 13 (thirteen) months

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Small bowel obstruction

Secondary: 
Acute sinusitis  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital with a small bowel 
obstruction. You were managed non-operatively and had a tube 
placed in your nose into your stomach to help decompress your 
abdomen.  Your obstruction resolved on its own and the tube was 
removed.  You are now having bowel function, tolerating a 
regular diet, and your pain is better controlled.  

You were also diagnosed with acute sinusitis, an infection of 
your sinuses which can cause facial pain and fevers.  You were 
started on an antibiotic called Azithromycin and will be 
discharged with a prescription.  

You are now medically cleared to be discharged home to continue 
your recovery.  Please note the following discharge 
instructions: 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___